US05459137
1-(4-Formylaminophenyl)-4-methyl-7,8 -methylenedioxy-5H-2,3-benzodiazepine
3.0 g (10.2 mmol) of 1-(4-aminophenyl)-4-methyl-7,8-methylenedioxy-5H-2,3-benzodiazepine were dissolved in 160 ml of dichloromethane and first 2.75 g (13.3 mmol) of dicyclohexylcarbodiimide, then 0.51 ml (13.3 mmol) of 100% formic acid were added and the reaction mixture was stirred for 2 hours at room temperature. The precipitated N,N'-dicyclohexylurea was filtered, the filtrate was exracted with 2×30 ml of 10% aqueous sodium carbonate solution, then with 2×30 ml of distilled water, the organic layer was dried and evaporated at reduced pressure. The residue was dissolved in ethyl acetate, filtered and evaporated under reduced pressure. The resulting raw product was recrystallized from 20 ml of 50% ethanol to yield 2.93 g (89.3%) of the aimed product, m.p. 152°-154° C. (slight decomp.).

reactant | 1-(4-aminophenyl)-4-methyl-7,8-methylenedioxy-5H-2,3-benzodiazepine | 10.2 mmol, 3.0 g | NC1=CC=C(C=C1)C1=NN=C(CC2=C1C=C1C(=C2)OCO1)C | C17H15N3O2
reactant | dicyclohexylcarbodiimide | 13.3 mmol, 2.75 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | formic acid | 13.3 mmol, 0.51 ml | C(=O)O | CH2O2
solvent | dichloromethane | 160 ml | ClCCl | CH2Cl2
product | 1-(4-Formylaminophenyl)-4-methyl-7,8 -methylenedioxy-5H-2,3-benzodiazepine | 2.93 g, 89.3% | C(=O)NC1=CC=C(C=C1)C1=NN=C(CC2=C1C=C1C(=C2)OCO1)C | C18H15N3O3
